US04060526
Step 3. 2-[1-Methyl-2-(4-phenyl-1-piperazinyl)ethylamino]benzamide hydrochloride
A mixture of 75 g. 2-aminobenzamide, 138 g. sodium acetate, 174 g. 1-(2-chloropropyl)-4-phenylpiperazine dihydrochloride, and 455 ml. water was refluxed 4 hours and left overnight at room temperature. Chloroform (200 ml.) was added, the mixture stirred, then filtered. The solid was washed with chloroform which dissolved most of it. The chloroform was separated, the aqueous layer washed with chloroform. The combined chloroform extracts were washed with water, dried, and concentrated to dryness. The residue was recrystallized from 1800 ml. ethanol and again from 2200 ml. ethanol to give 26.3 g., m. 197-8° . A 3rd recrystallization from 1600 ml. ethanol gave 22.4 g. m. 196-8.5° . A 10 g. portion of this was suspended in 100 ml. 95% ethanol, heated to near reflux and 15 ml. 10% hydrochloric acid added. The mixture was cooled with stirring and the solid filtered, washed with ethanol, and dried over P2O5 under vacuum to give 10.8 g., m. 274-81° (dec.)

reactant | 2-aminobenzamide | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 1-(2-chloropropyl)-4-phenylpiperazine dihydrochloride | Cl.Cl.ClC(CN1CCN(CC1)C1=CC=CC=C1)C
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | Chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-[1-Methyl-2-(4-phenyl-1-piperazinyl)ethylamino]benzamide hydrochloride | Cl.CC(CN1CCN(CC1)C1=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | InChI=1S/C20H26N4O.ClH/c1-16(22-19-10-6-5-9-18(19)20(21)25)15-23-11-13-24(14-12-23)17-7-3-2-4-8-17;/h2-10,16,22H,11-15H2,1H3,(H2,21,25);1H
